US05990346
Methyl (11R,12S,13E,15S,17R)-9-trifluoromethanesulfonyloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate (120 mg, 0.154 mmol), palladium acetate (11.2 mg, 0.05 mmol), triphenylphosphine (26 mg, 0.1 mmol), formic acid (12 μl, 0.309 mmol), and triethylamine (65 μl, 063 mmol) in tetrahydrofuran (6 mL) were placed in an autoclave into which carbon monoxide gas was pumped under pressure to give the internal pressure of 17 atmospheres. The solution was heated and agitated at 80° C. for 15 hours. This was dissolved in dimethylformamide (2 ml). Methanol (810 μl, 20 mmol) and triethylamine (139 μl, 1 mmol) were added. This was agitated in carbon monoxide atmosphere (1 atmosphere) at room temperature for further 18 hours. The reaction vessel was cooled to room temperature, then carbon monoxide in the reaction vessel was removed, the reaction solution thus obtained was passed through Florisil column, was concentrated under reduced pressure, and was purified by silica gel column chromotography (2 to 5% ethyl acetate/hexane) to obtain methyl (11R,12S,13E,15S,17R)-9-formyl-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate as a crude (21 mg).

reactant | Methyl (11R,12S,13E,15S,17R)-9-trifluoromethanesulfonyloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 0.154 mmol, 120 mg | FC(S(=O)(=O)OC1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C)(F)F | C35H65F3O7S2Si2
reactant | triphenylphosphine | 0.1 mmol, 26 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | formic acid | 0.309 mmol, 12 μl | C(=O)O | CH2O2
reactant | Methanol | 20 mmol, 810 μl | CO | CH4O
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | carbon monoxide | [C]=O | CO
catalyst | palladium acetate | 0.05 mmol, 11.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 65 μl | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1 mmol, 139 μl | C(C)N(CC)CC | C6H15N
product | methyl (11R,12S,13E,15S,17R)-9-formyl-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | C(=O)C1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C | C35H66O5SSi2
